US07745641B2
In a similar manner to Step 1 of Example 10, 3-amino-4-iodo-6-bromophthalimide (100 mg, 0.273 mmol) was dissolved in THF (5 mL), and the solution was treated with 2-(tributylstannyl)furan (0.129 mL, 0.410 mmol) and bis(triphenylphosphine)dichloropalladium (15 mg, 0.022 mmol), followed by purification by preparative thin-layer chromatography (chloroform/acetonitrile=50/1, 40/1) to obtain 3-amino-4-(furan-2-yl)-6-bromophthalimide (44 mg, yield 52%).

reactant | 3-amino-4-iodo-6-bromophthalimide | 0.273 mmol, 100 mg | NC1=C2C(C(=O)NC2=O)=C(C=C1I)Br | C8H4BrIN2O2
reactant | 2-(tributylstannyl)furan | 0.410 mmol, 0.129 mL | C(CCC)[Sn](C=1OC=CC1)(CCCC)CCCC
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | bis(triphenylphosphine)dichloropalladium | 0.022 mmol, 15 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-amino-4-(furan-2-yl)-6-bromophthalimide | 44 mg, yield 52% | NC1=C2C(C(=O)NC2=O)=C(C=C1C=1OC=CC1)Br | C12H7BrN2O3
